US07544835B2
Dimethyl 2-(3-{2-[(2,4-difluoroanilinocarbonyl)-oxy]ethyl}benzyl)malonate
Using dimethyl 2-[3-(2-hydroxyethyl)benzyl]malonate and 2,4-difluorophenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(2-hydroxyethyl)benzyl]malonate | OCCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1 | C14H18O5
reactant | 2,4-difluorophenylisocyanate | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
product | Dimethyl 2-(3-{2-[(2,4-difluoroanilinocarbonyl)-oxy]ethyl}benzyl)malonate | FC1=C(NC(=O)OCCC=2C=C(CC(C(=O)OC)C(=O)OC)C=CC2)C=CC(=C1)F | C21H21F2NO6
